US06528525B1
(b) Ethyl 3-[3-bromo-4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-phenoxypropionate
In a similar manner to that described in Example 122, a reaction was carried out using ethyl 3-(3-bromo-4-hydroxyphenyl)-2-phenoxypropionate (374 mg), which is the product of Reference example 52(a), t-butyl 2-hydroxyethylcarbamate (403 mg), triphenylphosphine (672 mg) and a solution of diethylazodicarboxylate in toluene (40%, 1.16 ml) and the reaction mixture was treated to afford the desired compound (466 mg) as a colorless oil.

reactant | ethyl 3-(3-bromo-4-hydroxyphenyl)-2-phenoxypropionate | 374 mg | BrC=1C=C(C=CC1O)CC(C(=O)OCC)OC1=CC=CC=C1 | C17H17BrO4
reactant | t-butyl 2-hydroxyethylcarbamate | 403 mg | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 672 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 1.16 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-[3-bromo-4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-phenoxypropionate | 466 mg | BrC=1C=C(C=CC1OCCNC(=O)OC(C)(C)C)CC(C(=O)OCC)OC1=CC=CC=C1 | C24H30BrNO6
